US07402684B2
(4-iodophenyl)-(4-methoxyphenyl)-methanone:
Nitrobenzene (45 ml) was cooled in an ice-bath and treated portionwise with aluminum chloride (13.5 g, 101 mmol, 1.15 eq.) and followed by 4-iodobenzoic acid chloride (25 g, 94 mmol, 1.07 eq.) in nitrobenzene (25 ml) at a maximum of 10° C. The mixture was stirred at 0° C. for 10 minutes, where upon anisole (9.5 g, 88 mmol, 1 eq.) was added dropwise in such a manner that the temperature didn't excess 10° C. The solution then was left to warm to room temperature overnight. The yellow suspension was poured into ice-water (750 ml). The precipitate was collected by filtration and washed with water and then dissolved in dichloromethane (2 L), which was washed NaHCO3 (aq.) (150 ml×2), dried over MgSO4. Evaporation of solvent under reduced pressure to provide the title product in (26.7 g, 90%), 1H NMR (400 MHz, CDCl3) δ 3.89 (s, 3H), 6.96 (d, J=8.4 Hz, 2H), 7.48 (d, J=8.0 Hz, 2H), 7.79 (d, J=8.4 Hz, 2H), 7.84 (d, J=8.0 Hz, 2H);

reactant | aluminum chloride | 101 mmol, 13.5 g, 1.15 eq. | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-iodobenzoic acid chloride | 94 mmol, 25 g, 1.07 eq. | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | anisole | 88 mmol, 9.5 g, 1 eq. | C1(=CC=CC=C1)OC | C7H8O
solvent | nitrobenzene | 25 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | Nitrobenzene | 45 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (4-iodophenyl)-(4-methoxyphenyl)-methanone | IC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC | C14H11IO2
